US04348399
Preparation of N-[4-(hexadecylamino)cinnamoyl]-2-aminoethanesulfonic acid
To a stirred solution of 2.50 g. of taurine and 5.6 ml. of triethylamine in 22.5 ml. of water is added 4.4 g. of p-(2,2,2-trifluoro-N-hexadecylacetamido)cinnamoyl chloride as a solution in 45 ml. of ethanol. After 24 hours, the mixture is treated with 20 ml. of 2.0 M sodium hydroxide and 25 ml. of water. After stirring for 10 min., the mixture is acidified with dilute hydrochloric acid, and the crude product is collected by filtration. Recrystallization affords the title compounds as white solid.

reactant | taurine | NCCS(=O)(=O)O | C2H7NO3S
reactant | p-(2,2,2-trifluoro-N-hexadecylacetamido)cinnamoyl chloride | FC(C(=O)N(CCCCCCCCCCCCCCCC)C1=CC=C(C=CC(=O)Cl)C=C1)(F)F | C27H39ClF3NO2
reactant | sodium hydroxide | 2.0 M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[4-(hexadecylamino)cinnamoyl]-2-aminoethanesulfonic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=CC(=O)NCCS(=O)(=O)O)C=C1 | C27H46N2O4S
